US07153863B2
To a cold (0° C.) solution of 2-isobutyl-3-[2-(methylthio)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine (890 mg, 2.98 mmol) in dichloromethane (25 mL) was added sodium bicarbonate solid (500 mg), and m-chloroperbenzoic acid (734 mg, ˜70% pure, 2.98 mmol). The mixture was stirred at 0° C. for 20 minutes and then quenched by the addition of saturated aqueous sodium thiosulfate and saturated aqueous sodium bicarbonate. The biphasic mixture was allowed to warm to room temperature and stirred vigorously for 15 minutes. The layers were separated and the organic layer washed with brine. The aqueous layer was extracted with dichloromethane and the combined organics were dried over sodium sulfate. Filtration and concentration in vacuo provided 2-isobutyl-3-[2-(methylsulfinyl)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine (930 mg, 99%) as a yellow solid. 1H NMR (CDCl3) δ 8.73 (d, 1H), 8.63 (d, 1H), 8.47 (d, 1H), 7.48 (d, 1H), 7.43 (t, 1H), 6.94 (t, 1H), 3.00 (d, 2H), 2.99 (s, 3H), 2.16 (m, 1H), 1.01 (d, 6H); MS m/z 315 (M+1).

reactant | 2-isobutyl-3-[2-(methylthio)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine | 2.98 mmol, 890 mg | C(C(C)C)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)SC | C16H18N4S
reactant | sodium bicarbonate | 500 mg | C([O-])(O)=O.[Na+]
reactant | m-chloroperbenzoic acid | 2.98 mmol, 734 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2-isobutyl-3-[2-(methylsulfinyl)pyrimidin-4-yl]pyrazolo[1,5-a]pyridine | 930 mg, 99% | C(C(C)C)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)S(=O)C | C16H18N4OS
